US07253192B2
D] 1-(3-Trimethylsilanyl-prop-2-ynyl)-cyclopropanecarboxylic acid tert-butyl ester
A solution of 14.0 ml (2.0 M in THF/n-heptane/ethylbenzene, 28 mmol) LDA in 100 ml THF was treated during 15 min at −78° C. with 2.84 g (20 mmol) cyclopropanecarboxylic acid tert-butyl ester in 20 ml THF. After 6 h at −78° C., a solution of 3-(trimethylsilyl) propargyl bromide and 29 ml DMPU in 40 ml THF was added during 20 min. Over night, the solution was naturally warmed to room temperature, poured on ice/aqueous saturated NH4Cl solution and extracted with ether (three times). The organic phases were washed with aqueous 10% KHSO4, water (5×), aqueous 10% NaCl and dried (Na2SO4) to give 5.59 g of the title compound as volatile dark brown liquid.

reactant | LDA | 28 mmol, 2.0 M, 14.0 ml | [Li+].CC(C)[N-]C(C)C
reactant | cyclopropanecarboxylic acid tert-butyl ester | 20 mmol, 2.84 g | C(C)(C)(C)OC(=O)C1CC1 | C8H14O2
reactant | 3-(trimethylsilyl) propargyl bromide | C[Si](C)(C)C#CCBr | C6H11BrSi
reactant | DMPU | 29 ml | CN1CCCN(C1=O)C | C6H12N2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 1-(3-Trimethylsilanyl-prop-2-ynyl)-cyclopropanecarboxylic acid tert-butyl ester | 5.59 g | C(C)(C)(C)OC(=O)C1(CC1)CC#C[Si](C)(C)C | C14H24O2Si
